US07220863B2
Step 1: Preparation of 3-chloro-2,5,6-trifluoropyridine
55.5 g of 3-chloro-2,4,5,6-tetrafluoropyridine (Fluorochem) and 20 g of zinc powder were added to 560 ml of 20% aqueous ammonia, and the resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was refluxed while removing water using a Dean-Stark trap, to obtain 46.2 g of the title compound.

reactant | 3-chloro-2,4,5,6-tetrafluoropyridine | 55.5 g | ClC=1C(=NC(=C(C1F)F)F)F | C5ClF4N
catalyst | zinc | 20 g | [Zn] | Zn
solvent | ammonia | 560 ml | N | H3N
product | 3-chloro-2,5,6-trifluoropyridine | 46.2 g | ClC=1C(=NC(=C(C1)F)F)F | C5HClF3N
